US08212024B2
Preparation of Ceftiofur Hydrochloride
To a suspension of crystalline Ceftiofur sodium (10 g) in water (30 ml) was added THF (87 ml) at 10-30° C. To that sodium chloride (14 g) was added. pH of the solution was adjusted to 2.5-3.5. Organic layer pH was adjusted to 0.5-1.5 using conc. HCl. Addition of diisopropyl ether followed by filtration yielded pure title compound.]

reactant | Ceftiofur sodium | 10 g | CO/N=C(/C1=CSC(=N1)N)\C(=O)N[C@H]2[C@@H]3N(C2=O)C(=C(CS3)CSC(=O)C4=CC=CO4)C(=O)[O-].[Na+]
reactant | sodium chloride | 14 g | [Cl-].[Na+]
reactant | HCl | Cl | ClH
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | water | 30 ml | O | H2O
solvent | THF | 87 ml | C1CCOC1 | C4H8O
product | Ceftiofur Hydrochloride | CO/N=C(/C1=CSC(=N1)N)\C(=O)N[C@H]2[C@@H]3N(C2=O)C(=C(CS3)CSC(=O)C4=CC=CO4)C(=O)O.Cl | InChI=1S/C19H17N5O7S3.ClH/c1-30-23-11(9-7-34-19(20)21-9)14(25)22-12-15(26)24-13(17(27)28)8(5-32-16(12)24)6-33-18(29)10-3-2-4-31-10;/h2-4,7,12,16H,5-6H2,1H3,(H2,20,21)(H,22,25)(H,27,28);1H/b23-11-;/t12-,16-;/m1./s1
